US06900215B2
To a solution of 3-(3-bromo-4-fluorophenyl)-7-trifluoromethylimidazo[1,2-α]pyrimidine (0.190 g, 0.528 mmol) in N,N-dimethylformamide (5 ml) was added 2-tri-n-butylstannylpyridine (0.265 g) followed by dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.187 g). The mixture was heated at 100° C. for 9 h. The solvent was evaporated at reduced pressure and the residue chromatographed on silica gel eluting with 4% methanol in dichloromethane. The residue was then loaded onto a cartridge of strong cation-exchange resin. Elution with methanol gave non-basic impurities. Further elution with 2M ammonia in methanol gave crude product. Further purification by preparative thin-layer chromatography on silica gel using 4% methanol in dichloromethane as eluant and crystallisation of the residue from toluene/isohexane afforded 3-[4-fluoro-3-(pyridin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as yellow needles: δH (400 MHz, DMSO) 7.46 (1H, m), 7.53 (1H, d, J 7), 7.61 (1H, dd, J 11 and 9), 7.86-7.91 (2H, m), 7.95-7.99 (1H, m), 8.24 (1H, dd, J 7 and 2), 8.30 (1H, s), 8.74-8.76 (1H, m), 9.27 (1H, d, J 7); m/z (ES+) 359 (M++H).

reactant | 3-(3-bromo-4-fluorophenyl)-7-trifluoromethylimidazo[1,2-α]pyrimidine | 0.528 mmol, 0.190 g | BrC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C13H6BrF4N3
reactant | 2-tri-n-butylstannylpyridine | 0.265 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.187 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 3-[4-fluoro-3-(pyridin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C2=NC=CC=C2 | C18H10F4N4
